US08022223B2
N-(5-bromo-3-phenoxypyridin-2-yl)-4-methylthiazol-2-amine (724 mg, 2.00 mmol) was dissolved in THF (20 mL) and cooled to −78° C. MeLi (1.30 mL, 2.20 mmol) is added slowly, and stirred for 10 minutes. n-Butyllithium (0.88 mL, 2.20 mmol) was added and the reaction mixture was stirred for 15 minutes. DMF (0.31 mL, 4.00 mmol) was added, and the reaction mixture was stirred for 30 minutes. The reaction mixture was warmed to room temperature and AcOH (2 mL) is added. The reaction mixture was stirred at room temperature for 1 hour, poured into saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel (10-20% EtOAc in hexanes) to afford 6-(4-methylthiazol-2-ylamino)-5-phenoxynicotinaldehyd.

reactant | N-(5-bromo-3-phenoxypyridin-2-yl)-4-methylthiazol-2-amine | 2.00 mmol, 724 mg | BrC=1C=C(C(=NC1)NC=1SC=C(N1)C)OC1=CC=CC=C1 | C15H12BrN3OS
reactant | MeLi | 2.20 mmol, 1.30 mL | [Li]C
reactant | n-Butyllithium | 2.20 mmol, 0.88 mL | C(CCC)[Li]
reactant | DMF | 4.00 mmol, 0.31 mL | CN(C)C=O | C3H7NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | 6-(4-methylthiazol-2-ylamino)-5-phenoxynicotinaldehyd | CC=1N=C(SC1)NC1=NC=C(C=O)C=C1OC1=CC=CC=C1 | C16H13N3O2S
